US05446152
a) Synthesis of 6-chloro-1-cyclohexylmethyl-3-[2-(diethylamino)ethyl]-2,3-dihydro-4(1H)-quinazolinone
2.00 Grammes (7.1 mmoles) of 6-chloro-3-[2-(diethylamino)ethyl]-2,3-dihydro-(1H)-quinazolinone are suspended in 5 ml of anhydrous dimethylacetamide. Milligrammes (17.8 mmoles) of sodium hydride are added to this solution and, after 30 minutesat room temperature, 0.72 ml (7.8 mmoles) of bromomethylcyclohexane are dripped. After 3 hours of reaction at room temperature the reaction solution is poured into water and ice. The product, of an oily consistency, is recovered through extraction with ethyl acetate, with a yield of 85%, and presents the following chemical-physical characteristics.

reactant | 6-chloro-3-[2-(diethylamino)ethyl]-2,3-dihydro-(1H)-quinazolinone | 7.1 mmoles | ClC=1C=C2CN(C(NC2=CC1)=O)CCN(CC)CC | C14H20ClN3O
reactant | sodium hydride | 17.8 mmoles | [H-].[Na+]
reactant | bromomethylcyclohexane | 7.8 mmoles, 0.72 ml | BrCC1CCCCC1 | C7H13Br
reactant | water | O | H2O
solvent | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
product | 6-chloro-1-cyclohexylmethyl-3-[2-(diethylamino)ethyl]-2,3-dihydro-4(1H)-quinazolinone | yield of 85% | ClC=1C=C2C(N(CN(C2=CC1)CC1CCCCC1)CCN(CC)CC)=O | C21H32ClN3O
